* Task 1: Transient startup check — BVDD ramp 0→7V
.title PVDD LDO Transient Startup

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

* Supplies — BVDD ramps 0→7V in 10µs
Vbvdd bvdd 0 PWL(0 0 10u 7 10m 7)
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 2.2
Ven_ret en_ret 0 0

* Load: 1mA at regulation
Rload pvdd 0 5000

* DUT
XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4

.tran 5u 10m uic

.control
run
echo "=== TRANSIENT RESULTS ==="
meas tran pvdd_final find v(pvdd) at=9.5m
meas tran gate_final find v(xdut.gate) at=9.5m
meas tran vref_ss_final find v(xdut.vref_ss) at=9.5m
meas tran pvdd_1ms find v(pvdd) at=1m
meas tran pvdd_5ms find v(pvdd) at=5m
echo "=== END ==="
quit
.endc
.end
